US09328099B2
4-(3-Bromophenyl)-1-methyl-1H-pyrazole
1,3-Dibromobenzene (0.38 mL, 3.2 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (595 mg, 2.86 mmol), Pd(dppf)Cl2 (260 mg, 0.320 mmol), and potassium phosphate (2.0 g, 9.5 mmol) were combined in a flask and dissolved in dioxane (16.0 mL) and water (1.6 mL). The flask was then sealed and flushed with argon. The reaction mixture was allowed to stir at 90° C. for 90 minutes. The mixture was then cooled to ambient temperature and diluted with EtOAc. The organic layer was washed with water, brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was purified by MPLC on silica gel (50% EtOAc/hexanes) to afford the title compound.

reactant | 1,3-Dibromobenzene | 3.2 mmol, 0.38 mL | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 2.86 mmol, 595 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium phosphate | 9.5 mmol, 2.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 16.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.6 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.320 mmol, 260 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(3-Bromophenyl)-1-methyl-1H-pyrazole | BrC=1C=C(C=CC1)C=1C=NN(C1)C | C10H9BrN2
